US06982274B2
A total of 21.6 g of 3-bromo-4-fluorobenzaldehyde was dissolved in a mixture of 50 ml of methyl orthoformate and 50 ml of methanol, and 0.2 g of p-toluenesulfonic acid monohydrate was added, followed by stirring at room temperature for 1 hour. To the reaction mixture was added aqueous sodium hydrogencarbonate solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous magnesium sulfate and the solvent was evaporated, to give 24.3 g of 3-bromo-4-fluorobenzaldehyde dimethylacetal as a colorless oil. The product was dissolved in 150 ml of dry tetrahydrofuran. After cooling to −78° C. in an atmosphere of nitrogen gas, 59 ml of a 2.5 M solution of n-butyllithium in hexane was added. After stirring for 30 minutes, 12.7 ml of 3-fluorobenzaldehyde was added and the mixture was heated to room temperature. To the reaction mixture was added aqueous ammonium chloride solution, and the mixture was extracted with ethyl acetate for two times. The organic layer was washed with water, dried over anhydrous magnesium sulfate and the solvent was evaporated. The residue was purified and separated by silica gel column chromatography (ethyl acetate:hexane=1:15), to give 24.3 g of the title compound as a pale yellow oil.

reactant | 3-bromo-4-fluorobenzaldehyde | 21.6 g | BrC=1C=C(C=O)C=CC1F | C7H4BrFO
reactant | p-toluenesulfonic acid monohydrate | 0.2 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methyl orthoformate | 50 ml | C(OC)([O-])[O-]
solvent | methanol | 50 ml | CO | CH4O
product | 3-bromo-4-fluorobenzaldehyde dimethylacetal | 24.3 g | COC(C1=CC(=C(C=C1)F)Br)OC | C9H10BrFO2
